US04468404
Stir cis-6-chloro-2,3-dihydro-3-hydroxy-2-[(1', 2', 4'-triazolyl)-1'-methyl]benzo(b)thiophene (1.17 gms., 4.37 mmols), 2-chloro-3-thenylbromide (1.06 gms., 5.0 mmol) and methyl tricaprylyl ammonium chloride (0.1 gm.) in tetrahydrofuran (25 ml) and 50% sodium hydroxide (10 ml) at room temperature for one hour. Pour the reaction mixture into chloroform (500 ml.) and extract with two 500 ml. portions of water. Dry the chloroform solution over anhydrous magnesium sulfate, filter and evaporate in vacuo. Chromatograph the resultant residue on silica gel eluting with chloroform. Combine the like eluates as determined by thin layer chromatography and evaporate in vacuo to obtain cis-6-chloro-3-(2'-chloro-3'-thenyloxy)-2,3-dihydro-2-[(1", 2", 4"-triazolyl)-1"-methyl]benzo(b)thiophene, a gum.

reactant | 2-chloro-3-thenylbromide | 5.0 mmol, 1.06 gms | ClC1=C(C=CS1)CBr | C5H4BrClS
reactant | methyl tricaprylyl ammonium chloride | 0.1 gm | [Cl-].C[N+](C(CCCCCCC)=O)(C(CCCCCCC)=O)C(CCCCCCC)=O
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | benzo(b)thiophene | S1C2=C(C=C1)C=CC=C2 | C8H6S
